US08871796B2
Trimethyl(trifluoromethyl)silane (0.62 mL, 4.0 mmol, 1.2 equiv) and tetrabutylammonium fluoride (1.0 M in THF, 0.67 mL, 0.67 mmol, 0.20 equiv) were added sequentially to a solution of N-(1-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide (1.65 g, 3.33 mmol, 1 equiv) in tetrahydrofuran (3.3 mL) at 0° C. The reaction mixture was stirred for 15 minutes at 0° C., and then was warmed to 22° C. After stirring for 2.5 hours, aqueous hydrochloric acid solution (2 N) was added and the reaction mixture was stirred for an additional 40 minutes. The crude product was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (hexanes, grading to 45% ethyl acetate-hexanes) to afford N-[1-(3-{1-ethyl-5-[4-(2,2,2-trifluoro-1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide (43 mg, 2%). Calcd (M+1)+: 566.2. Found: 566.0.

reactant | Trimethyl(trifluoromethyl)silane | 4.0 mmol, 0.62 mL, 1.2 equiv | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 0.67 mmol, 1.0 M, 0.67 mL, 0.20 equiv | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-(1-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide | 3.33 mmol, 1.65 g, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O4S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
product | N-[1-(3-{1-ethyl-5-[4-(2,2,2-trifluoro-1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide | 43 mg, 2% | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(C(F)(F)F)O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C24H25F6N3O4S
